US08003806B2
(a) Ethyl 3-[5-(anilinocarbonyl)-1H-benzimidazol-1-yl]-3-phenylpropanoate
To a solution of 1-(3-ethoxy-3-oxo-1-phenylpropyl)-1H-benzimidazole-5-carboxylic acid (50 mg, 148 μmol) in DMF (3 μL) was added N,N-diisopropylethylamine (50 μL, 287 μmol) and TBTU (57 mg, 177 μmol). The solution was stirred at room temperature for 0.5 hour, aniline (20 μL, 220 μmol) was added, and stirring continued at room temperature for 72 hours. The solution was evaporated in vacuo, and the residue was purified by flash column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (98:2) to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=5.30 min, MH+ 414].

reactant | 1-(3-ethoxy-3-oxo-1-phenylpropyl)-1H-benzimidazole-5-carboxylic acid | 148 μmol, 50 mg | C(C)OC(CC(C1=CC=CC=C1)N1C=NC2=C1C=CC(=C2)C(=O)O)=O | C19H18N2O4
reactant | N,N-diisopropylethylamine | 287 μmol, 50 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 177 μmol, 57 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | aniline | 220 μmol, 20 μL | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 3 μL | CN(C)C=O | C3H7NO
product | Ethyl 3-[5-(anilinocarbonyl)-1H-benzimidazol-1-yl]-3-phenylpropanoate | N(C1=CC=CC=C1)C(=O)C1=CC2=C(N(C=N2)C(CC(=O)OCC)C2=CC=CC=C2)C=C1 | C25H23N3O3
